US09056859B2
A solution of (2-bromo-4-nitrophenyl)acetic acid (500 mg, 2 mmol) in 11 mL of concentrated ammonium hydroxide was added a solution of FeSO4.7H2O (3.4 g, 12 mmol) in 11 mL of water over 5 minutes, and then the mixture was heated to reflux for 1 hour. Cooled to ambient temperature, filtered off solids and the filtrate was adjusted to pH to 5 with 2N HCl. Extracted with EtOAc and combined organic layers were washed with water, dried over anhydrous sodium sulfate, and concentrated to get (4-amino-2-bromophenyl)acetic acid. 1H-NMR (300 MHz, CDCl3) δ ppm 7.01 (d, J=8.0 Hz, 1H), 6.92 (d, J=2.0 Hz, 1H), 6.62 (dd, J=2.5 Hz, 1H), 3.61 (s, 2H).

reactant | (2-bromo-4-nitrophenyl)acetic acid | 2 mmol, 500 mg | BrC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)O | C8H6BrNO4
solvent | ammonium hydroxide | 11 mL | [OH-].[NH4+]
solvent | water | 11 mL | O | H2O
product | (4-amino-2-bromophenyl)acetic acid | NC1=CC(=C(C=C1)CC(=O)O)Br | C8H8BrNO2
